US07629332B2
N-(3-Hydroxypropyl)-5-[bis(2-Chloroethyl)Amino]-2,4-Dinitrobenzamide (IIa-3)
A suspension of 5-[bis(2-chloroethyl)amino]-2,4-dinitrobenzoic acid [Palmer et al., J. Med. Chem., 1994, 37, 2175] (1) (2.50 g, 7.1 mmol) in SOCl2 (20 mL) containing DMF (2 drops) was heated under reflux for1 h, then concentrated to dryness under reduced pressure and re-evaporated with benzene. The resulting crude benzoyl chloride was dissolved in Me2CO (50 mL) and the cooled (−5° C.) solution was treated with a cold solution of 3-amino-1-propanol (1.09 g, 14.5 mmol) in water (25 mL). The reaction mixture was shaken at room temperature for 5 min, then diluted with water (25 mL), concentrated to half volume, and extracted with CH2Cl2 (2×). The organic extract was washed with 0.1 N HCl and water then worked up to give a solid which was chromatographed on silica gel, eluting with EtOAc to give IIa-3 (2.37 g, 82%): mp (EtOAc/i-Pr2O) 90-91° C.; 1H [(CD3)2SO] δ8.63 (t, J=5.6 Hz, 1 H, CONH), 8.53 (s, 1 H, H-3), 7.42 (s, 1 H, H-6), 4.46 (t, J=5.1 Hz, 1 H, OH), 3.82 (t, J=5.9 Hz, 4 H, N(CH2CH2Cl)2), 3.68 (t, J=5.9 Hz, 4 H, N(CH2CH2Cl)2), 3.49 (q, J=6.0 Hz, 2 H, CH2OH), 3.29 (q, partially obscured, J=5.9 Hz, 2 H, CONHCH2), 1.68 (pent, J=6.7 Hz, 2 H, CH2CH2CH2). Anal. (C14H18Cl2N4O6) C, H, N, Cl.

reactant | 5-[bis(2-chloroethyl)amino]-2,4-dinitrobenzoic acid | 7.1 mmol, 2.50 g | ClCCN(C=1C(=CC(=C(C(=O)O)C1)[N+](=O)[O-])[N+](=O)[O-])CCCl | C11H11Cl2N3O6
reactant | 3-amino-1-propanol | 14.5 mmol, 1.09 g | NCCCO | C3H9NO
reactant | EtOAc i-Pr2O | CCOC(=O)C.O(C(C)C)C(C)C
solvent | SOCl2 | 20 mL | O=S(Cl)Cl | Cl2OS
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | water | 25 mL | O | H2O
solvent | water | 25 mL | O | H2O
product | N-(3-Hydroxypropyl)-5-[bis(2-Chloroethyl)Amino]-2,4-Dinitrobenzamide | OCCCNC(C1=C(C=C(C(=C1)N(CCCl)CCCl)[N+](=O)[O-])[N+](=O)[O-])=O | C14H18Cl2N4O6
